US07781438B2
Preparation of (2-Hydroxymethyl-6-methoxy-phenyl)-methanol
A solution of 7-methoxy-3H-isobenzofuran-1-one (16.65 g, 101.4 mmol) in anhydrous THF (200 ml) was added at room temperature under an atmosphere of argon to a freshly prepared solution of LiAlH4 (7.70 g, 202.8 mmol, 2.0 equiv) in THF (100 ml). After 30 minutes at room temperature, TLC analysis indicated complete conversion. The reaction mixture was cooled to 0° C. and water was added dropwise until gas evolution ceased. Water (500 ml) and CH2Cl2 (500 ml) was added to form a white suspension. After filtration, the filtrate was extracted with CH2Cl2 (4 liters in total). The combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo to afford the title compound (15.34 g, 90%) in adequate purity for direct use in the next transformation. 1H NMR (400 MHz, CDCl3): δ=7.27 (t, J=7.8 Hz, 1H), 6.96 (d, J=7.3 Hz, 1H), 6.89 (d, J=8.3 Hz, 1H), 4.83 (s, 2H); 4.72 (s, 2H), 3.85 (s, 3H), 2.8-2.6 (br s, 2H). MS (ES+): 169 (M+H)+.

reactant | 7-methoxy-3H-isobenzofuran-1-one | 101.4 mmol, 16.65 g | COC=1C=CC=C2COC(C12)=O | C9H8O3
reactant | LiAlH4 | 202.8 mmol, 7.70 g, 2.0 equiv | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | O | H2O
reactant | Water | 500 ml | O | H2O
reactant | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (2-Hydroxymethyl-6-methoxy-phenyl)-methanol | 15.34 g, 90% | OCC1=C(C(=CC=C1)OC)CO | C9H12O3
